US07572805B2
(3aS,9bSR)-6-(Trifluoromethyl)-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride
To a solution of the second eluting peak from Example 13, Part A, (3 as,9bR)-tert-butyl 5-oxo-6-(trifluoromethyl)-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate (100 mg, 0.28 mmol) in 4 mL of dioxane was added 1 mL of 12 N HCl. The resulting solution was stirred at ambient temperature for 1 h and then was concentrated. The residue was azeotroped with toluene and dried in vacuo to afford a foam. This foam was triturated 3× with ether and dried in vacuo to afford 75 mg (91%) of the title compound of Example 14 as an off-white powder. 1H NMR (DMSO-D6): δ 9.8 (broad s, 1H), 9.6 (broad s, 1H), 9.00 (s, 1H), 7.83 (d, 1H, J=8.2 Hz), 7.73 (t, 1H, J=7.7 Hz), 7.58 (d, 1H, J=7.7 Hz), 3.94-3.90 (m, 1H), 3.67-3.60 (m, 1H), 3.55-3.50 (m, 1H), 3.37-3.32 (m, 1H), 3.20-3.10 (m, 2H). LRMS (ESI): 257.16 (M+H)+.

reactant | (3 as,9bR)-tert-butyl 5-oxo-6-(trifluoromethyl)-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | 0.28 mmol, 100 mg | O=C1N[C@H]2[C@H](C=3C=CC=C(C13)C(F)(F)F)CN(C2)C(=O)OC(C)(C)C | C17H19F3N2O3
reactant | HCl | 12 N, 1 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (3aS,9bSR)-6-(Trifluoromethyl)-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride | 75 mg, 91% | Cl.FC(C1=CC=CC=2C3[C@H](NC(C12)=O)CNC3)(F)F | InChI=1S/C12H11F3N2O.ClH/c13-12(14,15)8-3-1-2-6-7-4-16-5-9(7)17-11(18)10(6)8;/h1-3,7,9,16H,4-5H2,(H,17,18);1H/t7?,9-;/m1./s1
